US06544976B1
(2S)-1-(1,2-Dioxo-3,3-dimethylpentyl)azetidine-2-carboxylic acid
To a solution of (2S)-Methyl-1-(1,2-dioxo-3,3-dimethylpentyl)-azetidine-2-carboxylate from Reference Example 3 (0.64 g, 2.65 mmol) in a 1:1 mixture of ether:methanol (20.0 mL) was added LiOH in water (4.9 mL, 1N solution) at about 0° C. The mixture was stirred at about 0° C. for about 30 minutes and then at about room temperature overnight. The pH was adjusted to about pH 1 by adding 1N HCl, then the mixture was diluted with water and extracted with dichloromethane. The organic layers were washed with brine and dried over sodium sulfate and then concentrated to give 0.40 g (67% yield) of the product as a yellow semisolid. 1H NMR (DMSO) δ 0.77-0.83 (m, 3H); 1.20-1.29 (series of s, 6H); 1.49-2.84 (series of m, 4H); 4.02-4.43 (series of m, 2H); 5.01-5.31 (series of dd, 1H); 6.10-6.80 (br, 1H).

reactant | (2S)-Methyl-1-(1,2-dioxo-3,3-dimethylpentyl)-azetidine-2-carboxylate | COC(=O)[C@H]1N(CC1)C(C(C(CC)(C)C)=O)=O | C12H19NO4
reactant | ether | CCOCC | C4H10O
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | water | 1N, 4.9 mL | O | H2O
solvent | methanol | 20.0 mL | CO | CH4O
product | (2S)-1-(1,2-Dioxo-3,3-dimethylpentyl)azetidine-2-carboxylic acid | 0.40 g, 67% yield | O=C(C(C(CC)(C)C)=O)N1[C@@H](CC1)C(=O)O | C11H17NO4
